US04995903
Preparation of 1-(3-methyl-2-butenyl)-3-nitroguanidine
3-methyl-2-butenylamine (3.0 g) is added dropwise at room temperature to a slurry of 1-methyl-3-nitro-1 -nitrosoguanidine (4.3 g) in 50 ml of EtOH/H2O (1/1). After stirring the mixture at room temperature for 18 hours, the precipitate which forms is removed by filtration. The solid is then slurred with dilute hydrochloric acid, collected by filtration and washed with ethanol/water (30/70). Recrystallization from ethanol gives a white solid with mp 134°-136° C.

reactant | 3-methyl-2-butenylamine | 3.0 g | CC(=CCN)C | C5H11N
reactant | 1-methyl-3-nitro-1 -nitrosoguanidine | 4.3 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
solvent | EtOH H2O | 50 ml | CCO.O
product | 1-(3-methyl-2-butenyl)-3-nitroguanidine | CC(=CCNC(=N)N[N+](=O)[O-])C | C6H12N4O2
